US04447434
(a) 5,10-dihydro-5-[(4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-on
A mixture of 21.0 g (0.1 mol) of 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one, 23.0 g (0.129 mol) of isonicotinic acid chloride hydrochloride, 21 ml (0.26 mol) of pyridine and 300 ml of anhydrous dioxan was refluxed for 3 hours. After cooling, the mixture was poured into 1 liter of ice-cold water, acidified with conc. hydrochloric acid and extracted twice, each time with 200 ml of dichloromethane. The aqueous phase was made alkaline with methylene chloride. The combined methylene chloride extracts were washed with water, dried over sodium sulphate and the solvent was removed in vacuo. The residue was recrystallized from hot methanol. After washing with ether, the beige crystals melted at 277°-279° C. Yield 16.0 g (51% of theory).

reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.1 mol, 21.0 g | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | isonicotinic acid chloride hydrochloride | 0.129 mol, 23.0 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | pyridine | 0.26 mol, 21 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 300 ml | O1CCOCC1 | C4H8O2
product | 5,10-dihydro-5-[(4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-on | N1=CC=C(C=C1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C19H13N3O2
